US08754103B2
6-(4-(trifluoromethoxy)phenyl)-3-(trifluoromethyl)imidazo[1,5-a]pyridine (1.2001 g, 3.466 mmol) was dissolved in CH2Cl2 (20 mL) in a 250 mL round bottomed flask. The solution was treated with NBS (925.4 mg, 5.199 mmol, 1.5 equiv.) at 0° C. for 30 min. And then the solvent was removed by rota-yap to give a crude mixture. Obtained crude mixture was purified by a column chromatography (SiO2=80 g, EtOAc/hexane=1:7 Rf=0.5) to give 1-bromo-6-(4-(trifluoromethoxy)phenyl)-3-(trifluoromethyl)imidazo[1,5-a]pyridine as a colorless oil.

reactant | 6-(4-(trifluoromethoxy)phenyl)-3-(trifluoromethyl)imidazo[1,5-a]pyridine | 3.466 mmol, 1.2001 g | FC(OC1=CC=C(C=C1)C=1C=CC=2N(C1)C(=NC2)C(F)(F)F)(F)F | C15H8F6N2O
reactant | NBS | 5.199 mmol, 925.4 mg, 1.5 equiv. | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-bromo-6-(4-(trifluoromethoxy)phenyl)-3-(trifluoromethyl)imidazo[1,5-a]pyridine | BrC=1N=C(N2C1C=CC(=C2)C2=CC=C(C=C2)OC(F)(F)F)C(F)(F)F | C15H7BrF6N2O
